US06211199B1
57.3 Synthesis of 1-(3,4-dimethoxy-5-methanesulfonyloxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4-dimethoxy-5-methanesulfonyloxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine to give the title compound.

reactant | 1-(3,4-dimethoxy-5-methanesulfonyloxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C1OC)OS(=O)(=O)C | C23H29NO9S2
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
product | 1-(3,4-dimethoxy-5-methanesulfonyloxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OS(=O)(=O)C | C38H49N5O7S
